US08859774B2
A solution of (R)-methyl 1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate (2.12 g, 3.96 mmol) was dissolved in dry dichloromethane and cooled to −78° C. under nitrogen. A solution of diisobutylaluminium hydride (1.0 M in dichloromethane, 16 mmol, 16 mL) was added dropwise maintaining the reaction temperature at <−70° C. and the reaction mixture was stirred at −78° C. for 1 hour. The reaction mixture was treated with water (6 mL), stirred at −78° C. for 5 minutes then warmed to >0° C. over 15 minutes. Solid sodium bicarbonate (5.5 g) was added and the mixture stirred vigorously for 5 minutes. Excess sodium sulfate was added (˜20 g) and the resultant mixture was stirred vigorously for a further 15 minutes. The solid materials were removed by filtration and rinsed with a little dichloromethane. The filtrate was concentrated under reduced pressure and the residue purified by column chromatography on silica gel eluting with a mixture of ethyl acetate and cyclohexane (3:7 by volume) followed by ethyl acetate to afford (R)-1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carbaldehyde as a white foam (0.62 g). 1H NMR (400 MHz, CDCl3): 9.48 (s, 1 H); 7.93 (d, J=8.2 Hz, 2 H); 7.84 (d, J=8.3 Hz, 2 H); 7.39-7.40 (m, 3 H); 7.17 (t, J=8.5 Hz, 2 H); 6.52 (d, J=2.5 Hz, 1 H); 4.32 (d, J=12.3 Hz, 1 H); 3.90 (br s, 1 H); 3.14 (d, J=16.4 Hz, 1 H); 2.65-2.80 (m, 1H); 2.51-2.52 (m, 4 H) and (R)-(1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl) sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)methanol as a white solid (1.0 g). 1H NMR (400 MHz, CDCl3): δ 7.94 (d, J=8.2 Hz, 2 H); 7.83 (d, J=8.3 Hz, 2 H); 7.40-7.41 (m, 3 H); 7.14-7.15 (m, 2 H); 6.31 (d, J=2.4 Hz, 1 H); 4.11-4.12 (m, 1 H); 4.02 (dd, J=11.4, 5.9 Hz, 1 H); 3.78 (dd, J=11.5, 5.6 Hz, 1 H); 3.34 (dd, J=11.4, 8.1 Hz, 1 H); 3.13 (d, J=15.8 Hz, 1 H); 2.74-2.76 (m, 1 H); 2.59-2.60 (m, 1 H); 2.41 (d, J=15.5 Hz, 1 H); 2.24-2.25 (m, 2 H); 2.04 (s, 1 H).

reactant | (R)-methyl 1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate | 3.96 mmol, 2.12 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F | C25H21F4N3O4S
reactant | diisobutylaluminium hydride | 16 mmol, 1.0 M, 16 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium bicarbonate | 5.5 g | C([O-])(O)=O.[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 6 mL | O | H2O
product | (R)-1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carbaldehyde | 0.62 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C=O)S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F | C24H19F4N3O3S
